US07754737B2
tert-Butyl 3-benzoyl-3-methylpiperidine-1-carboxylate (278 mg, 0.92 mmol) was dissolved in 1:1 THF/MeOH (8 mL) and NaBH4 (70 mg, 1.84 mmol, 2 equiv) was added. After stirring 30 min at rt, LC-MS showed the reaction was complete. After concentration, the residue was partitioned between ether and diluted (˜1%) aq HCl. The aqueous layer was separated and extracted twice with ether. The combined organic layers were washed with satd aq NaHCO3, brine, dried over Na2SO4 and evaporated to afford crude product which was purified by chromatography on a 12-g prepacked silica gel cartridge eluted with a 0-35% EtOAc in hexanes gradient to afford tert-butyl 3-(hydroxy(phenyl)methyl)-3-methylpiperidine-1-carboxylate (198 mg, 71%). LC-MS (3 min) tR=1.83 min, m/z 328 (M+Na).

reactant | tert-Butyl 3-benzoyl-3-methylpiperidine-1-carboxylate | 0.92 mmol, 278 mg | C(C1=CC=CC=C1)(=O)C1(CN(CCC1)C(=O)OC(C)(C)C)C | C18H25NO3
reactant | NaBH4 | 1.84 mmol, 70 mg, 2 equiv | [BH4-].[Na+]
solvent | THF MeOH | 8 mL | C1CCOC1.CO
product | tert-butyl 3-(hydroxy(phenyl)methyl)-3-methylpiperidine-1-carboxylate | 198 mg, 71% | OC(C1(CN(CCC1)C(=O)OC(C)(C)C)C)C1=CC=CC=C1 | C18H27NO3
